US05866577
9.3 g of ethyl 3-(4-ethoxy-3-methoxyphenyl)-propionate obtained in the above step c) was dissolved in 10 ml of acetic acid, followed by adding 7.4 g of chloromethyl methyl ether and subsequently stirring at room temperature for 22 hours. The resulting reaction solution was poured into ice water, extracted with ethyl acetate, washed with water and then dried to distill off the solvent. The residue thus obtained was dissolved in 10 ml of xylene, and the solution was mixed with 8.54 g of triphenylphosphine. The resulting mixture was stirred at room temperature for 18 hours and then at 70 to 80° C. for 5 hours. After cooling, xylene was removed by decantation, and the remaining portion was solidified by adding n-hexane to obtain 6.0 g of crude [5-ethoxy-2-(2-ethoxycarbonylethyl)-4-methoxyphenyl]methyltriphenylphosphonium chloride. e) To a mixture solution of 50 ml of tetrahydrofuran and 50 ml of ethanol were dissolved 1.5 g of 5-cyanobenzo[b]thiophene-2-carbaldehyde and 6.34 g of crude [5-ethoxy-2-(2-ethoxycarbonylethyl)-4-methoxyphenyl]-methyltriphenylphosphonium chloride obtained in the above step d). 1.83 g of 1,8-diazabicyclo[5.4.0]-7-undecene was added thereto, followed by stirring at room temperature for 18 hours. The resulting reaction solution was concentrated under a reduced pressure, and the residue was dissolved in a mixture solution of 20 ml of tetrahydrofuran and 20 ml of ethanol. The thus prepared solution was mixed with 1.70 g of 10% palladium carbon catalyst (50% wet type) and subjected to catalytic hydrogenation under normal pressure until hydrogen absorption was completed. After removing the catalyst by filtration, the solvent was distilled off. By subjecting the resulting residue to silica gel column chromatography, 1.2 g of oily ethyl 3-[2-[2-(5-cyanobenzo-[b]thien-2-yl)ethyl]-4-ethoxy-5-methoxyphenyl]propionate was obtained.

reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | 5-cyanobenzo[b]thiophene-2-carbaldehyde | 1.5 g | C(#N)C1=CC2=C(SC(=C2)C=O)C=C1 | C10H5NOS
reactant | [5-ethoxy-2-(2-ethoxycarbonylethyl)-4-methoxyphenyl]-methyltriphenylphosphonium chloride | 6.34 g | [Cl-].C(C)OC=1C(=CC(=C(C1)C1=C(C=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C)CCC(=O)OCC)OC
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 1.83 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 3-[2-[2-(5-cyanobenzo-[b]thien-2-yl)ethyl]-4-ethoxy-5-methoxyphenyl]propionate | 1.2 g | C(#N)C1=CC2=C(SC(=C2)CCC2=C(C=C(C(=C2)OCC)OC)CCC(=O)OCC)C=C1 | C25H27NO4S
